US09126949B2
To a solution of 2,4-dichloro pyrimidine (20 gm) in methanol (200 ml) was added sodium methoxide (8.7 gm) at 0 to 5° C. The resulting mixture was stirred for 14 hours at room temperature and then concentrated under reduced pressure to obtain a residual mass. The residual mass obtained was extracted with ethyl acetate and water. The combined organic layers were washed with water and sodium chloride solution, and then concentrated under vacuum to obtain a crude solid. The crude solid obtained was dissolved in hexane (40 ml) at 0 to 5° C. and stirred for 1 hour. The solid obtained was collected by filtration and then dried to obtain 9.7 gm of 2-chloro-4-methoxypyrimidine.

reactant | 2,4-dichloro pyrimidine | 20 gm | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | sodium methoxide | 8.7 gm | C[O-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
solvent | hexane | 40 ml | CCCCCC | C6H14
product | 2-chloro-4-methoxypyrimidine | 9.7 gm | ClC1=NC=CC(=N1)OC | C5H5ClN2O
